Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:1][C:2]([H:3])([H:4])[C:5]=[C:6]([H:7])[H:8]>>[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-1.25942808887
[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.13484917828
[C:2](#[C:3][H:4])[C:5]([H:6])([H:7])[H:8].[O:1]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[H:8],-2.71814174725
[C:1]#[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1](=[C:2]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[H:4].[C:3]#[C:5],6.23023544627
[H:14].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.86741326432
[H:3].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-1.67890790459
[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1]/[C:2]([O:3][O:4][C:5]([H:6])([H:7])[H:8])=[C:9]\[C:11]([H:12])([H:13])[H:14],4.78824653833
[H:1][C:2][O:3][C:4]#[C:5][O:6][C:7][H:8]>>[C:7][H:8].[H:1][C:2][O:3][C:4]=[C:5]=[O:6],4.06233919999
[H:1][O:2][C:3](=[C:4]=[C:5]([H:6])[H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C@@:3]1([C:4]=[C:5]([H:6])[H:7])[O:8][C:9]1([H:10])[H:11],-0.1447395210889999
[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3][H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5][C:6]([H:7])([H:8])[O:9][H:10],-1.4763710145700002
[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-6.983190614189999
[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9][H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][H:10],-3.92803859024
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-6.4058931469800005
[H:1][O:2][O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9]>>[C:4]#[C:5][C:6]([H:7])([H:8])[H:9].[H:1][O:2][O:3],4.07081976592
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[C:12][H:13]>>[C:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],4.85248469829
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][C:11]([H:12])([H:13])[H:14],-4.8537639422400005
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[H:1].[O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[O:11][H:12],4.610140755340001
[H:1][C:2]([H:3])([H:4])[O:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:18].[H:1][C:2]([H:3])([H:4])[O:5][C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])[H:17],4.56181372163
[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],4.56848563037
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]=[C:4]([C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2],9.24121381764
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][H:13],2.05658525033
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][O:2][C:3]([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10],4.54622780937
[C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]=[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-0.2117681240199999
[H:5].[O:1][O:2][C:3]#[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-3.02461784523
[H:15].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13][H:14]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.959910849669999
[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8](=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.41519187062
[H:1][O:2][C:3]#[C:4][O:5][C:6]=[C:7]([H:8])[H:9]>>[H:1].[O:2]=[C:3]=[C:4][O:5][C:6]=[C:7]([H:8])[H:9],2.77198071024
[H:1][O:2][C:3](=[C:4][H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:6]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-5.15145793052
